US08754114B2
N-(2-Morpholin-4-ylethyl)-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide
This compound was prepared by using procedure analogous to those described for the synthesis of Example 98, Step 9 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid and N-(2-aminoethyl)morpholine. LCMS (M+H)+: m/z=596.3.

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C24H20F3N5O3
reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | N-(2-Morpholin-4-ylethyl)-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide | N1(CCOCC1)CCNC(C(C)C1=CC=C(C=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C30H32F3N7O3
